US06313143B1
A solution of 3-(l H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione (51 mg, 0.13 mmol), prepared as described in U.S. Ser. No. 09/268,887, in THF (20 ml) and cooled to −70° C. To this solution was added lithium bis(trimethylsilyl)amide (0.5 mmol, 0.5 ml, 3.8 eq, 1.0 M in THF, followed by excess acetyl chloride (0.1 ml). The resulting solution was stirred until the temperature reached −45° C. The reaction was evaporated and purified by silica gel chromatography to give 33 mg of 3-(1-acetyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione. (Yield 65 %).

reactant | 3-(l H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione | 0.13 mmol, 51 mg | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)=O | C21H14N4O4
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | acetyl chloride | 0.1 ml | C(C)(=O)Cl | C2H3ClO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-(1-acetyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione | 33 mg, Yield 65 % | C(C)(=O)N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)=O | C23H16N4O5
